US06548448B2
To a slurry of 16.5 g (0.0418 mol) of 1,1,2-tribromo-2-[2-(1-ethoxy-ethoxy)-ethyl]-cyclopropane in 145 ml methanol and 40 ml water, was added 0.306 g (0.00161 mol) p-toluene sulfonic acid monohydrate and 145 ml 6M hydrochloric acid. After stirring at room temperature for 1 hour, the solvent was removed from the reaction mixture in vacuo. To the residue, there was added ethyl acetate and water. The resulting mixture was transferred to a separatory funnel and the phases were separated. The isolated organic layer was washed with brine then dried over MgSO4 and filtered. The solvent was removed from the filtrate in vacuo to yield 11.9 g of 1,1,2-tribromo-2-(2-hydroxyethyl)cyclopropane as an oil.

reactant | 1,1,2-tribromo-2-[2-(1-ethoxy-ethoxy)-ethyl]-cyclopropane | 0.0418 mol, 16.5 g | BrC1(C(C1)(CCOC(C)OCC)Br)Br | C9H15Br3O2
reactant | p-toluene sulfonic acid monohydrate | 0.00161 mol, 0.306 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | hydrochloric acid | 6M, 145 ml | Cl | ClH
solvent | methanol | 145 ml | CO | CH4O
solvent | water | 40 ml | O | H2O
product | 1,1,2-tribromo-2-(2-hydroxyethyl)cyclopropane | 11.9 g | BrC1(C(C1)(CCO)Br)Br | C5H7Br3O
